US06248736B1
1-(tert-Butyl)-N-(4-chlorobenzyl)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxamide.
A slurry of 1.11 g of ethyl 1-(tert-butyl)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxylate from Preparation No. 9 in 2.0 g of 4-chlorobenzylamine is heated under argon at 160° C. for 18 hours, then cooled to room temperature and triturated with 1N HCl. The solid is filtered, washed well with water, and dried under vacuum. Flash chromatography using 20% ethyl acetate in dichloromethane provides 1.22 g of the title compound as a white solid.

reactant | ethyl 1-(tert-butyl)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 1.11 g | C(C)(C)(C)N1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)OCC | C16H18INO3
reactant | 4-chlorobenzylamine | 2.0 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 1-(tert-Butyl)-N-(4-chlorobenzyl)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 1.22 g | C(C)(C)(C)N1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)NCC1=CC=C(C=C1)Cl | C21H20ClIN2O2
